US05679717
Hexanoyl chloride (33 g, 0.25 mol) in 250 mL of tetrahydrofuran was added to a three neck round bottom flask equipped with a thermometer, stir bar, and dropping funnel. The contents of the flask were then cooled to 15° C. in an ice bath while stirring. Allylamine (28.6 g, 0.5 mol) in 200 mL of tetrahydrofuran was then added slowly through the dropping funnel while maintaining stirring. Throughout the addition, the temperature was maintained at 15° C. After addition was complete, stirring continued for an additional 15 minutes, after which the solid allylamine chloride precipitate was filtered off. The filtration was concentrated under vacuum to yield 37 g of N-allyl hexanamide as a colorless viscous liquid.

reactant | Hexanoyl chloride | 0.25 mol, 33 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | Allylamine | 0.5 mol, 28.6 g | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N-allyl hexanamide | 37 g | C(C=C)NC(CCCCC)=O | C9H17NO
